US07713994B2
3′-Formyl-2-methoxymethoxy-biphenyl-4-carbonitrile
4-Iodo-3-methoxymethoxy-benzonitrile (600 mg, 2.08 mmol), 3-formylphenylboronic acid (450 mg, 3.0 mmol), Pd(PPh3)4 (200 mg, 0.17 mmol) and Cs2CO3 (1.2 g, 3.7 mmol) were mixed in N,N-dimethylformamide (15 mL), degassed and heated at 100° C. for 2 hours. After which, the mixture is allowed to cool to room temperature, an aqueous work up is performed, and the residue purified to afford the desired product (500 mg, 90%).

reactant | 4-Iodo-3-methoxymethoxy-benzonitrile | 2.08 mmol, 600 mg | IC1=C(C=C(C#N)C=C1)OCOC | C9H8INO2
reactant | 3-formylphenylboronic acid | 3.0 mmol, 450 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | Cs2CO3 | 3.7 mmol, 1.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.17 mmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-Formyl-2-methoxymethoxy-biphenyl-4-carbonitrile | 500 mg, 90% | C(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)C#N)OCOC | C16H13NO3
